US07700589B2
2-indan-5-ylmethyl-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione
Prepared analogously to Example 76e) from and 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid and 1-methyl-4-piperidin-4-yl-piperazine

reactant | 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | C1CCC2=CC(=CC=C12)CC(C(=O)O)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H31N3O4
reactant | 1-methyl-4-piperidin-4-yl-piperazine | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | 2-indan-5-ylmethyl-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione | C1CCC2=CC(=CC=C12)CC(C(=O)N1CCC(CC1)N1CCN(CC1)C)CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C37H50N6O3
